US04587342
B. 2,4-Diamino-5-(7,8-dimethoxy-2H-1-benzopyran-5-ylmethyl)pyrimidine
Guanidine hydrochloride (11.46 g, 0.12 mole) in methanol (25 mL) was added to sodium methoxide (6.55 g, 0.12 mole) in methanol (40 mL) and the resultant sodium chloride was filtered and washed with methanol (10 mL). The guanidine solution was added to 3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)-2-methoxymethylpropenenitrile (11.5 g, 0.04 mole) and the mixture heated at reflux for 2 hr. Cooling the mixture at 3° C. provided 5.38 g of yellow solid in two crops. HPLC assayed yield of 28.6%. A sample recrystallized from alcohol/water gave mp 232°-4° C.

reactant | Guanidine hydrochloride | 0.12 mole, 11.46 g | Cl.NC(=N)N
reactant | sodium methoxide | 0.12 mole, 6.55 g | C[O-].[Na+]
reactant | guanidine | NC(=N)N | CH5N3
reactant | 3-(7,8-dimethoxy-2H-1-benzopyran-5-yl)-2-methoxymethylpropenenitrile | 0.04 mole, 11.5 g | COC1=C(C2=C(C=CCO2)C(=C1)C=C(C#N)COC)OC | C16H17NO4
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 2,4-Diamino-5-(7,8-dimethoxy-2H-1-benzopyran-5-ylmethyl)pyrimidine | 5.38 g, yield of 28.6% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1C=CCO2)OC)OC | C16H18N4O3
